US03966766
A. Preparation of Triethylene Glycol Dibromide
66 g. of triethylene glycol and 13.3 g. of anhydrous pyridine are slowly added to 100 g. of phosphorous tribromide while agitating and cooling the mixture. After standing overnight at room temperature, the mixture is poured on to ice and the organic phase is decanted, washed with water and dilute hydrochloric acid and dried over sodium sulphate. After distillation under vacuum (95°C and 0.5 mm. Hg) the title compound is obtained.

reactant | triethylene glycol | C(COCCOCCO)O | C6H14O4
reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Triethylene Glycol Dibromide | [Br-].[Br-].C(COCCOCCO)O | InChI=1S/C6H14O4.2BrH/c7-1-3-9-5-6-10-4-2-8;;/h7-8H,1-6H2;2*1H/p-2
